Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
"Dr. ___ me over."

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ y/o 11-weeks-pregnant woman who comes in 
seeking a dual-diagnosis inpatient admission for depression and 
substance abuse, including alcohol and crack cocaine. The 
patient calls her PCP ___ she feels suicidal or like 
using. She last used substances "a few days ago," specifically 
alcohol and crack. She felt suicidal the morning of ___ and had 
a plan to overdose on sleeping pills because she "want[ed] to 
sleep and never wake up." She has had several past suicidal 
attempts/gestures, including ODing on a bottle of Tylenol at age 
___, slitting her wrists at 27, and holding a gun to her head at 
age ___ when she felt like "nobody is going to miss me." She did
not shoot herself because she thought of her ___ y/o daughter and 
did not want her to grow up to do the same thing (commit 
suicide). She says she does not currently own a gun.

Ms. ___ describes her mood as being up and down, changing 
with her "daily life situation." Recent stressors include 
getting kicked out of housing, financial problems 
(unemployment), pressure from her teachers at school, getting 
barred from the ___, and being cheated on by her boyfriend.

Ms. ___ has a long history of substance abuse, mostly 
alcohol and crack. She denies withdrawal seizures, DTs; reports 
frequent blackouts when she drinks. Typically drinks 3 beers - 
___ pt of hard alcohol, sometimes more "depending on what I'm 
trying not to think about". Has been in detox 6 times. Longest 
period of sobriety ___ years when she was involved with programs
and before she lived with other drug-using individuals. Patient 
endorses that in the past she has exaggerated her alcohol and 
cocaine problems to get help.

Her most recent inpatient admission was at ___ in ___ 
earlier this year for a similar admission (SI, using drugs). She 
was started on Prozac 40mg during that admission and has taken 
it when she remembers (most days). She reports SIB including 
cutting (years ago) and burning (few weeks ago). She has never 
been in counseling but has thought about it. Pt reports some 
periods of high energy.

Ms. ___ endorses past repetitive abuse, incarceration from 
possession of drugs and firearms and for destruction of 
property.

Course in Emergency Department (including behavior, medications 
given, restraints if given, medical w/u if done): On ___, in ED, 
pt found out that she had Chlamydia, which was then treated with 
azithromycin. 

Per ED resident interview: Ms. ___ tried repeatedly to get 
in touch with the father of her unborn child so that she could 
tell him she had contracted an STI. She was unable to reach him 
by phone so she sent him a text message. He then called her back 
and accused her of being unfaithful, and is now not answering 
her calls. She feels frustrated about the tension in their 
relationship but also acknowledges that she needs to "focus on 
me" right now so that she can heal and be able to handle being 
in an exclusive relationship in the future. She is very 
motivated to address her addiction and her coping skills, saying 
"I want to get better for the sake of my baby. Even if I can't 
be in a relationship with [baby's father] I have a piece of him 
in me and I can treat this baby right from the beginning." We 
also discussed her religious beliefs; the patient thinks God may 
be responsible for disrupting her relationship with the baby's 
father so that she can heal herself and then be better equipped 
to be in a drug-free relationship with him in the future.

Pt remained calm throughout her stay in the ED per ED notes. She 
did experience occasional nausea treated with Zofran 4 mg PO.

Neuropsychiatric Examination:
ROS:
Endorses pains in "coochie" that come on with constipation, no 
BM x3days; tingling in hand after sleeping on one side for 
extended period; mild headaches in back of head for months; SOB 
when walking upstairs; nausea; gas pain; left shoulder and right 
knee pain for accident in ___ more sensitive sense of smell 
while pregnant
Denies Weakness, Numbness, Seizures, Intolerance to heat/cold, 
Vision changes, Hearing changes, Diarrhea, Melena/Hematechezia, 
Dysuria/Polyuria, Swelling

 
Past Medical History:
PSYCHIATRIC HISTORY: Pt reports 6 prior detoxes. Her most recent 
inpatient admission was at ___ in ___ earlier this year 
for a similar admission (SI, using drugs). She was started on 
prozac 40mg during that admission and has taken it when she 
remembers (most days). She reports SIB including cutting (years 
ago) and burning (few weeks ago). She has never been in 
counseling but has thought about it. 

PAST MEDICAL HISTORY: ADD, denies others

 
Social History:
SUBSTANCE ABUSE HISTORY: Long history of substance abuse, mostly 
alcohol and crack. Denies withdrawal seizures, DTs, reports 
frequent blackouts when she drinks. Typically drinks 3 beers - 
___ pt of hard alcohol, sometimes more "depending on what I'm 
trying not to think about". Has been in detox several times. 
Longest period of sobriety ___ years when she was involved with 
programs and before she lived with other drug using individuals.

SOCIAL HISTORY: ___
Family History:
Depression in sisters, mother.
"Everybody drinks." Sexual molestation very common within the 
family but nobody talks about it.

 
Physical Exam:
PHYSICAL EXAMINATION:
VS:  BP: 115/67  HR: 65  temp: 98.8  resp: 18  O2 sat: 100% on 
RA
height: 5'5"  weight: 219lb
 
MENTAL STATUS EXAM:
--appearance: fair grooming with variable eye contact - poor to 
fair
--behavior/attitude: Initially guarded, later jocular and 
cooperative; exhibited no PMR, PMA
--speech: variable rate, at times normal and at times slow. 
Normal tone
--mood (in patient's words): "It changes." 
--affect: Initially constricted, later full affect; appropriate 
to the context
--thought content (describe): Initially preoccupied with need to 
go to the bathroom, later focused on concerns about feeling 
comfortable here with other people in her room, and hoping she 
will be able to talk to people who can understand and be "real" 
with her. Also ruminated on feelings of sexism, preferring women 
to men.
--thought process: Variable - linear to tangential, at one time 
loose
--perception: Endorsed seeing her dead son and hearing god but 
could not elaborate on how real this seems to her - went off on 
tangent and eventually to loose association
--SI/HI: Endorses passive SI (saying it might be nice to die), 
denies current intent, says she is afraid of how she might feel 
in the future but verbalized willingness and ability to talk to 
staff if she becomes more suicidal; no HI; verbalized safety 
plan
--insight: fair to limited
--judgment: limited 

COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: able to recite MOYB
--memory (ball, chair, purple): immediate intact and remote 
intact
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___, 
current president, not vice president
--proverbs: provided accurate interpretation of "apple falling 
from tree", but interpreted "look before you leap" as "watch me 
jumpin'" and interpreted "no use crying of spilled milk" as 
"don't sweat the small stuff"
--similarities/analogies: understood analogy of "apples to 
oranges"

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal 
pulses
Abdomen: Obese; Soft, nontender. Pregnant.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light 
bilaterally. 
      III, IV, VI: Extraocular movements intact bilaterally 
without nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
No gross focal motor or sensory deficits, normal gait.
  *Reflexes- B 0+ T 0+ Pa 2+ Ankle 2+, symmetrical
  *Coordination- No gross abnormality.

 
Pertinent Results:
___ 08:05AM BLOOD TSH-0.73
___ 08:05AM BLOOD VitB12-825 Folate-GREATER TH
___ 08:05AM BLOOD Calcium-9.4 Phos-4.3 Mg-1.8
___: Glc 94 BUN 10 Cr 0.8 Na 136 K 4.0 Cl 103 HCO3 23 
___ 08:05AM BLOOD ALT-12 AST-16 AlkPhos-46 TotBili-0.2
___: WBC 13.2 Hb 12.3 Hct 37.1
___: urine and serum tox negative
 
 
Brief Hospital Course:
___ yo pregnant (week 11) F with PSA who was referred by out 
patient provider for increased depression, SI and detox in 
context of recent crack cocaine and EtOH use, homelessness and 
an abusive relationship. 

Psychiatric: While the patient initially reported suicidal 
ideation and depression, she denied suicidality throughout her 
hospitalization. She reported that she would be safe to leave an 
inpatient setting, but wanted inpatient treatment of her 
substance abuse; she initially did not express any confidence 
that she could remain abstinent from drugs during the rest of 
her pregnancy if not in an inpatient setting. The patient 
continued taking Prozac 40mg daily during her stay. Haldol 
(1.5mg) was added to her medication regimen, but she reported 
that it made her tongue feel stiff, which was sucsessfully 
treated with Benadryl, and caused her to become tearful. 
Therefore, she refused to take Haldol. After stopping the 
Haldol, she admitted to having more thoughts of using drugs. She 
was unable to reconcile that Haldol may be good for her baby if 
it prevents her from abusing drugs. She did not appear to 
understand the risk of using cocaine and EtOH would be 
significantly more harmful to her baby compared to side effects 
of Haldol. She reluctantly agreed to use lamotrigine and denied 
side effects from the medication. Chlorpromazine was also added, 
after which she reported an improvement in her mood, a decrease 
in anger/irritability, and clearer thinking. On discharge, 
lamotrigine was discontinued, as the risks to her pregnancy were 
thought to out-weigh the benefits. She was discharged on the 
fluoxetine and the chlorpromazine. By the time of discharge, the 
patient expressed confidence that she would be able to maintain 
abstinence from cocaine and EtOH, though she did admit still 
being afraid of relapse. She was discharged with an appointment 
for outpatient substance abuse treatment as well as an 
appointment for outpatient counseling and intake to arrange 
ongoing psychopharmacology treatment. She was not suicidal while 
on the unit and listed her unborn child a reason to live. 

Milieu: Patient was initially provocative and manipulative on 
the unit with staff and other patients. She did not actively 
participate in her care on the unit and when she attended 
groups, she was disruptive. She initiated an argument with 
another patient during a group and could not be re-directed. She 
also reported that she had been "sexually harassed" by a male 
patient. The patient was walking back to her room when the male 
patient made a "sexual" comment. She could not remember the 
specifics of the comment, stating "I know I heard the word 
'sex'." She specifically denied that the male patient had 
touched her or threatened her. Patient demanded to be 
transferred. When she felt that her concernes were not 
adequately addressed, the patient called ___ from the unit to 
report an assault. On police questioning the patient reported 
that the other patient had touched her. She later retracted the 
statement and admitted that she made the false statement so that 
the other patient would be punished. After several days on the 
unit, she became generally more trusting of staff and was less 
provocative, manipulative, angry, and disruptive. The 
medications seemed to improve her interpersonal behavior on the 
unit.

Psychosocial: The patient expressed a desire to look at her past 
records in order to explore her trauma history. She believed 
that exploring her trauma history will allow her to stop using 
drugs. However, when informed that in the short term trauma 
history exploration would likely make her unstable and is ill 
advised right now, she stated that she would like to find 
another program. While aspects of her presentation are 
consistent with PTSD, it was not thought to be safe to encourage 
her to explore her past trauma at the present time. Toward the 
end of her hospital stay, the patient expressed an understanding 
that trauma exploration could be done more safely in a stable, 
longer-term outpatient setting. The patient reported a history 
of domestic violence with her boyfriend who she was planning to 
live with when she was discharged from the unit. She met with 
___, ___ Violence Prevention Recovery, and 
discussed the issue with the team social worker several times. 
She denied feeling unsafe with her boyfriend. She was given 
contact information for ___ at ___ Violence 
Prevention Recovery upon discharge.

Medical: Patient was seen by OB for question of vaginal yeast 
infection. Patient was treated with Flagyl (7 day course to end 
___ and Terconazole (___omplete).
 
Legal: ___
Medications on Admission:
Prozac 40mg daily
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
2. Omega-3 Fatty Acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
3. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) 
Tablet PO DAILY (Daily).  
4. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): Last dose ___.
Disp:*3 Tablet(s)* Refills:*0*
5. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).
Disp:*60 Capsule(s)* Refills:*0*
6. Hydrocortisone 0.5 % Cream Sig: One (1) Appl Topical TID (3 
times a day) as needed for vaginal itching.
Disp:*1 tube* Refills:*0*
7. Chlorpromazine 25 mg Tablet Sig: Two (2) Tablet PO QHS (once 
a day (at bedtime)).
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I - Cocaine dependence. Dysthymia. r/o PTSD symptoms.
Axis II - Borderline and antisocial behaviors.
Axis III - None active. ? Of yeast / Chlamydia infections.
Axis IV - Multiple, home-based, medical, psych
Axis V - 35

 
Discharge Condition:
MENTAL STATUS EXAM:
     APPEARANCE & FACIAL EXPRESSION: ___ female
appearing older than stated age, dressed in street clothes with
fair hygiene, good eye contact 
     POSTURE: sitting in chair
     BEHAVIOR: No PMR/PMA
     ATTITUDE: cooperative, playful, at times guarded/irritable 
     SPEECH: normal rate, tone, volume
     MOOD: 'I feel good'
     AFFECT: full, somewhat labile
     THOUGHT FORM: loose, tangential, somewhat circumstantial,
but able to be redirected
     THOUGHT CONTENT: no evidence of paranoid thoughts or
delusions; patient brought up history of trauma (sexual abuse by
grandfather and physical abuse by grandmother) without being
prompted
     ABNORMAL PERCEPTIONS: denies AH/VH
     SUICIDALITY/HOMICIDALITY: denies SI/HI
     INSIGHT AND JUDGMENT: fair/fair to poor

Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___